US07754744B2
Step 2: (4-Chloro-quinolin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(4-chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.22 g, 0.61 mmol) in 4 M HCl in dioxane (30 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 262.3 [M+H]+.

reactant | 4-(4-chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.61 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=C1)Cl | C19H24ClN3O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (4-Chloro-quinolin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=CC(=NC2=CC=CC=C12)NC1CCNCC1 | InChI=1S/C14H16ClN3.2ClH/c15-12-9-14(17-10-5-7-16-8-6-10)18-13-4-2-1-3-11(12)13;;/h1-4,9-10,16H,5-8H2,(H,17,18);2*1H
